US08278328B2
A mixture of 3-bromo-4-cyanophenylacetic acid (D134, 2.1 g, 7.00 mmol), 1-Boc 4-aminopiperidine (1.5 g, 7.49 mmol), EDC hydrochloride (1.5 g, 7.82 mmol), diisopropylethylamine (3.0 mL, 17.22 mmol), and DMF (25 mL) was stirred for 2 h at room temperature then diluted with ethyl acetate and washed with aqueous citric acid, aqueous sodium bicarbonate, water, and brine. Crystallisation from diethyl ether gave N-Boc 4-{[(2-bromo-4-cyanophenyl)acetyl]amino}piperidine (1.5 g, 2.84 mmol, 40.6% yield) as a white solid containing about 20% of N-Boc 4-{[(4-cyanophenyl)acetyl]amino}piperidine.

reactant | 3-bromo-4-cyanophenylacetic acid | 7.00 mmol, 2.1 g | BrC=1C=C(C=CC1C#N)CC(=O)O | C9H6BrNO2
reactant | 1-Boc 4-aminopiperidine | 7.49 mmol, 1.5 g | C(=O)(OC(C)(C)C)N1CCC(CC1)N | C10H20N2O2
reactant | EDC hydrochloride | 7.82 mmol, 1.5 g | CCN=C=NCCCN(C)C.Cl
reactant | diisopropylethylamine | 17.22 mmol, 3.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | N-Boc 4-{[(2-bromo-4-cyanophenyl)acetyl]amino}piperidine | 2.84 mmol, 1.5 g, 40.6% yield | C(=O)(OC(C)(C)C)N1CCC(CC1)NC(CC1=C(C=C(C=C1)C#N)Br)=O | C19H24BrN3O3
